.include 45nm_bulk.txt

.param VDD=1.1
.param VBL=1.1

* TASK 2 CIRCUIT
VDD1 vdd1 0 'VDD'
VWL1 wl1 0 PWL(0 0 1n 0 1.05n 'VDD')
MP1 qb1 q1 vdd1 vdd1 pmos W=0.15u L=0.045u
MN1 qb1 q1 0 0 nmos W=0.20u L=0.045u
MP2 q1 qb1 vdd1 vdd1 pmos W=0.15u L=0.045u
MN2 q1 qb1 0 0 nmos W=0.20u L=0.045u
MA1 bl1 wl1 q1 0 nmos W=0.16u L=0.045u
MA2 blb1 wl1 qb1 0 nmos W=0.16u L=0.045u
Cbl1 bl1 0 180f IC='VBL'
Cblb1 blb1 0 180f IC='VBL'
.ic v(q1)=0 v(qb1)='VDD'

VDD2 vdd2 0 'VDD'
VWL2 wl2 0 PWL(0 0 1n 0 1.05n 'VDD')
MP3 qb2 q2 vdd2 vdd2 pmos W=0.15u L=0.045u
MN3 qb2 q2 0 0 nmos W=0.20u L=0.045u
MP4 q2 qb2 vdd2 vdd2 pmos W=0.15u L=0.045u
MN4 q2 qb2 0 0 nmos W=0.20u L=0.045u
MA3 bl2 wl2 q2 0 nmos W=0.24u L=0.045u
MA4 blb2 wl2 qb2 0 nmos W=0.24u L=0.045u
Cbl2 bl2 0 180f IC='VBL'
Cblb2 blb2 0 180f IC='VBL'
.ic v(q2)=0 v(qb2)='VDD'

* TASK 3 CIRCUIT
VDD3 vdd3 0 'VDD'
VWL3 wl3 0 PWL(0 0 1n 0 1.05n 'VDD')
MP5 qb3 q3 vdd3 vdd3 pmos W=0.15u L=0.045u
MN5 qb3 q3 0 0 nmos W=0.20u L=0.045u
MP6 q3 qb3 vdd3 vdd3 pmos W=0.15u L=0.045u
MN6 q3 qb3 0 0 nmos W=0.20u L=0.045u
MA5 bl3 wl3 q3 0 nmos W=0.16u L=0.045u
MA6 blb3 wl3 qb3 0 nmos W=0.16u L=0.045u
Cbl3 bl3 0 1p IC='VDD'
Cblb3 blb3 0 1p IC='VDD'
.ic v(q3)=0 v(qb3)='VDD'

* TASK 4 CIRCUIT
VDD4 vdd4 0 'VDD'
VWL4 wl4 0 PWL(0 0 1n 0 1.05n 'VDD')
MP7 qb4 q4 vdd4 vdd4 pmos W=0.15u L=0.045u
MN7 qb4 q4 0 0 nmos W=0.20u L=0.045u
MP8 q4 qb4 vdd4 vdd4 pmos W=0.15u L=0.045u
MN8 q4 qb4 0 0 nmos W=0.20u L=0.045u
MA7 bl4 wl4 q4 0 nmos W=0.16u L=0.045u
MA8 blb4 wl4 qb4 0 nmos W=0.16u L=0.045u
Cbl4 bl4 0 180f IC='VBL'
Cblb4 blb4 0 180f IC='VBL'
.ic v(q4)=0 v(qb4)='VDD'

.control

setplot const

let vdd_table = vector(11)
let dv_table = vector(11)
let i = 0

foreach vv 1.10 1.05 1.00 0.95 0.90 0.85 0.80 0.75 0.70 0.65 0.60
    alterparam VDD=$vv
    reset
    tran 5p 4n uic
    let dv_wave3 = v(blb3)-v(bl3)
    meas tran dv_measure3 FIND dv_wave3 AT=2n
    set tranplot = $curplot
    setplot const
    let vdd_table[$&i] = $vv
    let dv_table[$&i] = {$tranplot}.dv_measure3
    let i = i + 1
end

setplot const
print vdd_table
print dv_table

alterparam VDD=1.1
set temp=27
reset
tran 5p 4n uic

let dv16 = v(blb1)-v(bl1)
let dv24 = v(blb2)-v(bl2)

meas tran dv16_max MAX dv16 FROM=1n TO=4n
meas tran dv24_max MAX dv24 FROM=1n TO=4n
meas tran q16_max MAX v(q1) FROM=1n TO=4n
meas tran q24_max MAX v(q2) FROM=1n TO=4n

echo "TASK 2 RESULTS"
echo "Access width = 0.16um"
print q16_max dv16_max
echo "Access width = 0.24um"
print q24_max dv24_max

plot dv16 title 'Task 1 Bitline Difference W=0.16um'
plot dv24 title 'Task 1 Bitline Difference W=0.24um'
plot v(q1) title 'Task 2 V(Q) W=0.16um'
plot v(q2) title 'Task 2 V(Q) W=0.24um'

setplot const
plot dv_table vs vdd_table title 'Task 3 Delta V vs VDD'

set temp=85
reset
tran 5p 4n uic

let dv85 = v(blb4)-v(bl4)

meas tran dv85_2ns FIND dv85 AT=2n
meas tran dv85_max MAX dv85 FROM=1n TO=4n
meas tran q85_max MAX v(q4) FROM=1n TO=4n
meas tran bl85_2ns FIND v(bl4) AT=2n
meas tran blb85_2ns FIND v(blb4) AT=2n

echo "TASK 4 RESULTS"
echo "VDD = 1.100 V"
echo "Temperature = 85 C"
print bl85_2ns
print blb85_2ns
print dv85_2ns
print dv85_max
print q85_max

plot dv85 title 'Task 4 Delta V at 85C'

.endc
.end